US05059692
Methyl 1-dimethylaminomethyleneamino-4,5-dihydro-5-oxo-4-phenyl-thieno[2,3-c]isoquinoline-2-carboxylate (compound 7)
To a solution o 1.05 g of methyl 1-amino-4,5-dihydro-5-oxo-4-phenyl-thieno[2,3-c]isoquinoline-2-carboxylate in 20 ml of dimethylformamide was added 0.55 g of phosphorus oxychloride at room temperature, and the mixture was stirred for 30 minutes. The reaction mixture was poured into water, and neutralized with a saturated sodium bicarbonate aqueous solution, and precipitates were collected by a filtration. The precipitates were washed with water, and dried under reduced pressure. The residue was purified by silica gel column chromatography to obtain 1.09 g of the desired product as pale yellow crystals (eluent: n-hexane/chloroform=1/1).

reactant | methyl 1-amino-4,5-dihydro-5-oxo-4-phenyl-thieno[2,3-c]isoquinoline-2-carboxylate | NC1=C(SC=2N(C(C=3C=CC=CC3C21)=O)C2=CC=CC=C2)C(=O)OC | C19H14N2O3S
reactant | phosphorus oxychloride | 0.55 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Methyl 1-dimethylaminomethyleneamino-4,5-dihydro-5-oxo-4-phenyl-thieno[2,3-c]isoquinoline-2-carboxylate | 1.09 g | CN(C)C=NC1=C(SC=2N(C(C=3C=CC=CC3C21)=O)C2=CC=CC=C2)C(=O)OC | C22H19N3O3S
